US07423159B2
A mixture of 4-nitrobenzaldehyde (15.1 g), 1,3-thiazolidine-2,4-dione (11.70 g), piperidine (1.70 g) and ethanol (300 mL) was heated under reflux for 24 hrs. The reaction mixture was concentrated. The obtained residue was washed with ethanol to give 5-(4-nitrobenzylidene)-1,3-thiazolidine-2,4-dione as yellow crystals (14.8 g, yield 59%). Recrystallization thereof from acetone-hexane gave pale-yellow prism crystals. melting point: 272-273° C.

reactant | 4-nitrobenzaldehyde | 15.1 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | 1,3-thiazolidine-2,4-dione | 11.70 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | piperidine | 1.70 g | N1CCCCC1 | C5H11N
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | 5-(4-nitrobenzylidene)-1,3-thiazolidine-2,4-dione | 14.8 g, yield 59% | [N+](=O)([O-])C1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C10H6N2O4S
